US07285558B2
1-methyl-4-(trifluoroacetyl)-1H-pyrrole-2-carbaldehyde
Oxalylchloride (4.8 ml) in dichloroethane (10 ml) was added to a solution of dimethylformamide (4.25 ml) in dichloroethane (20 ml) over a period of 20 minutes at ice-cold temperature. The white suspension formed was stirred at room temperature for 20 minutes. Reaction cooled with ice-cold water and N-methyl pyrrole (4.44 ml) in dichloroethane (10 ml) was added dropwise over a period of 20 minutes. Resulting light yellow solution stirred at room temperature for 40 minutes. Aluminum chloride (13.33 g), followed by trifluoroacetic anhydride (7 ml) was added rapidly and the resulting dark mixture stirred at room temperature for 2 hours. Reaction quenched with the addition of 100 ml 10% aqueous hydrochloric acid and extracted with ethyl acetate. Ethyl acetate layer dried, and concentrated Crude product purified on column chromatography (silica-gel). Elution with 10-20% ethyl acetate in hexanes gave the desired product (0.1 g).

reactant | Oxalylchloride | 4.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methyl pyrrole | 4.44 ml | CN1C=CC=C1 | C5H7N
reactant | Aluminum chloride | 13.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trifluoroacetic anhydride | 7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | dimethylformamide | 4.25 ml | CN(C=O)C | C3H7NO
product | 1-methyl-4-(trifluoroacetyl)-1H-pyrrole-2-carbaldehyde | 0.1 g | CN1C(=CC(=C1)C(C(F)(F)F)=O)C=O | C8H6F3NO2
